.param speed1=1
.param tripdt1=100n

* Inverting buffer with Schmitt trigger input
* tpd 100n
* tr 160n/60n
*.SUBCKT CD40106B  A Y  VDD VGND  vdd1={vdd} speed1={speed} tripdt1={tripdt}
.SUBCKT CD40106B  A Y  VDD VGND  vdd1={vdd}
.param td1=1e-9*(100-40-10)*5/{vdd1}*{speed1}
*
XIN1  A Ai  VDD VGND  CD40_IN_S_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
*
A1  Ai 0 0 0 0  Yn 0 0  BUF  tripdt={tripdt1}  td={td1}  
*
XOUT  Yn Y  VDD VGND  CD40_OUT_2X  vdd2={vdd1} speed2={speed1}  tripdt2={tripdt1}
.ends


* Schmitt-input; 2.9V/2.1V @5V
.SUBCKT  CD40_IN_S_1  in out  VDD VGND  vdd3={vdd2}  speed3={speed2}  tripdt3={tripdt2} 
.param Cval = 1.8e-12*5/{vdd3}*{speed3}
.param vt1=2.5/5
.param vh1=0.4/5
.param gain=(1/{vdd3})
*
*D1 0   in  CD40DIO1 
*D2 in VDD  CD40DIO1
R1 in out10 10k
C1 out10 VGND {Cval}
R2 in VGND 1e8
**E1 out20 0 out10 VGND {gain}
*B1 out20 0 V=LIMIT(0,V(out10,VGND)*{gain},1)
B1 out20 0 V=LIMIT(0,V(out10,VGND)/max(V(VDD,VGND),1),1)
AE1  out20 0 0 0 0  0 out 0  SCHMITT  vt={vt1} vh={vh1} vhigh=1  tripdt={tripdt3}
.ends

* Strong output driver
.SUBCKT  CD40_OUT_2X  in out  VDD VGND  vdd3={vdd2} speed3={speed2}  tripdt3={tripdt2}
.param trise1=80e-9*5/{vdd3}*{speed3}
.param Rout=250*5.0/{vdd3}*{speed3}
*
AE1  in 0 0 0 0  0 out10 0  BUF  tripdt={tripdt3}  trise={trise1}
*
*E1  out20 VGND out10 0 {vdd3}
B1 out20 VGND V=V(out10)*V(VDD,VGND)
Rout  out20 out {Rout}
*D1 0   out  DIO2 
*D2 out VDD  DIO2
.ends

